US08198269B2
(3) Synthesis of (±)-N-benzoyl-N-(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine
DMAP (86.1 mg) and di-tert-butyl dicarbonate (123 mg) were added to a solution of (±)-N-[(4aR*,8aS*)-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]benzamide (211 mg) in THF (10 ml). The mixture was stirred at room temperature overnight, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (229 mg).

reactant | di-tert-butyl dicarbonate | 123 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (±)-N-[(4aR*,8aS*)-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]benzamide | 211 mg | BrC=1C=CC(=C(C1)[C@@]12COCC[C@H]2CSC(=N1)NC(C1=CC=CC=C1)=O)F | C20H18BrFN2O2S
catalyst | DMAP | 86.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (±)-N-benzoyl-N-(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(5-bromo-2-fluorophenyl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 229 mg | C(C1=CC=CC=C1)(=O)N(C(=O)OC(C)(C)C)C1=N[C@]2(COCC[C@H]2CS1)C1=C(C=CC(=C1)Br)F | C25H26BrFN2O4S
